US07037905B2
4,4,5,5-Tetramethyl-2-(3-trifluoromethoxyphenyl)-[1,3,2]dioxaborolane
The title compound (25%, oil) was prepared from 3-trifluoromethoxyphenylboronic acid and pinacol.

reactant | 3-trifluoromethoxyphenylboronic acid | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
reactant | pinacol | OC(C)(C)C(C)(C)O | C6H14O2
product | 4,4,5,5-Tetramethyl-2-(3-trifluoromethoxyphenyl)-[1,3,2]dioxaborolane | 25% | CC1(OB(OC1(C)C)C1=CC(=CC=C1)OC(F)(F)F)C | C13H16BF3O3
